US08633173B2
N(8)-(2-Methanesulfonyl-benzyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-benzyl)-amine (75.0 mg, 0.223 mmol) and 3-(4-methylpiperazin-1-yl)aniline (47.0 mg, 0.246 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.023 g, 21%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.11 (d, J=8.0 Hz, 1H), 7.85 (d, J=6.5 Hz, 1H), 7.66-7.59 (m, 2H), 7.54-7.49 (m, 1H), 7.27-7.23 (m, 1H), 7.21 (t, J=8.2 Hz, 1H), 7.02 (d, J=9.2 Hz, 1H), 6.72-6.67 (m, 2H), 6.57 (dd, J=8.2, 1.6 Hz, 1H), 6.43 (d, J=7.6 hZ, 1H), 5.33 (t, J=6.1 Hz, 1H), 4.96 (d, J=6.2 Hz, 2H), 3.29-3.24 (m, 4H), 3.16 (s, 3H), 2.61-2.56 (m, 4H), 2.36 (s, 3H). MS=492 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-benzyl)-amine | 0.223 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C14H13ClN4O2S
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.246 mmol, 47.0 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonyl-benzyl)-N(2)-[3-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=C(CNC=2C=3N(C=CC2)N=C(N3)NC3=CC(=CC=C3)N3CCN(CC3)C)C=CC=C1 | C25H29N7O2S
